US06897224B2
3-[1-(5-Fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol
870 mg (1.95 mmol) of 3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-methylquinolin-5-ylimino)-2-(trifluoromethyl)propan-2-ol is reacted analogously to Example 37 with 96 mg (2.53 mmol) of sodium borohydride in 6.0 ml of methanol and 3.0 ml of tetrahydrofuran. After recrystallization from hexane and ethyl acetate, 790 mg (90% of theory) of the product is obtained.

reactant | 3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-methylquinolin-5-ylimino)-2-(trifluoromethyl)propan-2-ol | 1.95 mmol, 870 mg | FC=1C=CC(=C(C1)C1(CC1)CC(C=NC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)OC | C24H22F4N2O2
reactant | sodium borohydride | 2.53 mmol, 96 mg | [BH4-].[Na+]
solvent | methanol | 6.0 ml | CO | CH4O
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
product | 3-[1-(5-Fluoro-2-methoxyphenyl)cycloprop-1-yl]-1-(2-methylquinolin-5-ylamino)-2-(trifluoromethyl)propan-2-ol | FC=1C=CC(=C(C1)C1(CC1)CC(CNC1=C2C=CC(=NC2=CC=C1)C)(O)C(F)(F)F)OC | C24H24F4N2O2
